US05539122
C. 2-Isopropyl-4-(((N-methyl)amino)methyl)oxazole
To 40% aqueous methylamine (100 mL) was added dropwise a suspension of 4-chloromethyl-2-isopropyloxazole (4.20 g, 0.0263 mol) in p-dioxane/H2O (1:1 (v/v), 20 mL) over a 25 min period. After stirring for 45 min at ambient temperature, the volume was reduced to ca. 50 mL by rotary evaporation in vacuo, and NaCl was added. The aqueous was extracted with CHCl3 (4×100 mL), and the combined extract was dried over Na2SO4 and concentrated in vacuo. The resulting brown liquid was chromatographed on a 200 g SiO2 flash column with 2%/PrNH2 /CH2Cl2 followed by a gradient of /PrNH2 /MeOH/CH2Cl2 (0.5:2:97.5, 0.5:4:95.5). Concentration in vacuo of the product-containing fractions afforded the desired compound as a golden oil (2.89 g, 0.0187 mol, 71%): 1H NMR (CDCl3) δ1.33 (d, J=6.9 Hz, 6H), 2.46 (s, 3H), 2.99-3.14 (m, 1H), 3.64 (s, 2H), 7.42 (s, 1H). Mass spectrum: (M+H)+ =155, (M+NH4)+ =172.

reactant | methylamine | 100 mL | CN | CH5N
reactant | 4-chloromethyl-2-isopropyloxazole | 0.0263 mol, 4.20 g | ClCC=1N=C(OC1)C(C)C | C7H10ClNO
solvent | p-dioxane H2O | 20 mL | O1CCOCC1.O
product | 2-Isopropyl-4-(((N-methyl)amino)methyl)oxazole | 0.0187 mol, 2.89 g, 71% | C(C)(C)C=1OC=C(N1)CNC | C8H14N2O
